US05658922
20-tert-Butyldimethylsilyloxy-7-methyl-pregn-5-ene-3,7-diol
A solution of 3-acetoxy-20-tert-butyldimethylsilyloxy-pregn-5-ene-7-one (279 gm, 0.57 mol) in tetrahydrofuran (5.6 L) was cooled to 4° C. A 3M solution of methyl magnesium chloride in tetrahydrofuran (1.037 L, 3.1 mol) was added at such a rate as to keep the temperature <0° C. The ice bath was removed and the reaction allowed to warm to room temperature overnight. The reaction was cooled in an ice bath and quenched with a 20% solution of ammonium chloride (3 L). The organic layer was removed and the aqueous layer extracted with ethyl acetate. The organic layers were combined, washed with saturated salt solution, and dried over anhydrous magnesium sulfate. The solution was filtered through a pad of anhydrous sodium sulfate and the solvent removed by rotoevaporation to yield the title compound (265.7 gm, 92.3% yield).

reactant | 3-acetoxy-20-tert-butyldimethylsilyloxy-pregn-5-ene-7-one | 0.57 mol, 279 gm | C(C)(=O)OC1CC2=CC([C@H]3[C@@H]4CC[C@H](C(C)O[Si](C)(C)C(C)(C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C29H48O4Si
reactant | methyl magnesium chloride | C[Mg]Cl
solvent | tetrahydrofuran | 5.6 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.1 mol, 1.037 L | O1CCCC1 | C4H8O
product | 20-tert-Butyldimethylsilyloxy-7-methyl-pregn-5-ene-3,7-diol | 265.7 gm, 92.3% yield | [Si](C)(C)(C(C)(C)C)OC(C)[C@H]1CC[C@H]2[C@@H]3C(C=C4CC(CC[C@]4(C)[C@H]3CC[C@]12C)O)(O)C | C28H50O3Si
